US07943639B2
1-Phenylmethanesulfonyl-4-piperazin-1-yl-1 H-pyrrolo[3,2-c]pyridine hydrochloride
Phenyl-methanesulfonyl chloride (24.6 mg) was added to tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate the title compound (0.2 mg). LC/MS RT: 1.007 (System 10 till 40% MeCN over 1.5 min, ACE C8), Purity. 90%. MS: 357 (M+1).

reactant | Phenyl-methanesulfonyl chloride | 24.6 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | tert-butyl 4-(1H-pyrrolo[3,2-c]pyridin-4-yl)piperazine-1-carboxylate | N1C=CC=2C(=NC=CC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H22N4O2
product | 1-Phenylmethanesulfonyl-4-piperazin-1-yl-1 H-pyrrolo[3,2-c]pyridine hydrochloride | 0.2 mg | Cl.C1(=CC=CC=C1)CS(=O)(=O)N1C=CC=2C(=NC=CC21)N2CCNCC2 | InChI=1S/C18H20N4O2S.ClH/c23-25(24,14-15-4-2-1-3-5-15)22-11-7-16-17(22)6-8-20-18(16)21-12-9-19-10-13-21;/h1-8,11,19H,9-10,12-14H2;1H
